### PR TITLE
[Merged by Bors] - chore: polishing the IMO solution 2024Q1

### PR DESCRIPTION
**Pull request by madvorak**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by joneugster — APPROVED** [review]
Looks good, thanks!

maintainer merge

File: Archive/Imo/Imo2024Q1.lean [hunk 1]
```diff
@@ -68,31 +70,31 @@ lemma mem_Ico_one_of_mem_Ioo (h : α ∈ Set.Ioo 0 2) : α ∈ Set.Ico 1 2 := by
...
       calc 1 ≤ α⁻¹ * α := by simp [h0.ne']
-        _ ≤ ⌈α⁻¹⌉₊ * α := by gcongr; exact Nat.le_ceil _
-    · calc ⌈α⁻¹⌉₊ * α < (α⁻¹ + 1) * α := by gcongr; exact Nat.ceil_lt_add_one (inv_nonneg.2 h0.le)
+        _ ≤ ⌈α⁻¹⌉₊ * α := (mul_le_mul_right h0).2 (Nat.le_ceil α⁻¹)
+    · calc ⌈α⁻¹⌉₊ * α
+        _ < (α⁻¹ + 1) * α := (mul_lt_mul_right h0).2 (Nat.ceil_lt_add_one (inv_nonneg.2 h0.le))
         _ = 1 + α := by field_simp [h0.ne']
-        _ ≤ (1 : ℕ) + 1 := by gcongr; norm_cast
-  · refine Finset.sum_eq_zero ?_
+        _ ≤ (1 : ℕ) + 1 := add_le_add Nat.cast_one.symm.le hn.le
```
Comment (jcommelin) [inline Archive/Imo/Imo2024Q1.lean:87]: I personally prefer the `gcongr; norm_cast` version.

File: Archive/Imo/Imo2024Q1.lean [hunk 2]
```diff
@@ -30,21 +30,23 @@ namespace Imo2024Q1
 /-- The condition of the problem. -/
 def Condition (α : ℝ) : Prop := (∀ n : ℕ, 0 < n → (n : ℤ) ∣ ∑ i ∈ Finset.Icc 1 n, ⌊i * α⌋)
 
+/-- This is to be determined by the solver of the original problem. -/
+def solutionSet : Set ℝ := {α : ℝ | ∃ m : ℤ, α = 2 * m}
```
Comment (jcommelin) [inline Archive/Imo/Imo2024Q1.lean:34]: Is there a reason for moving this to the top? I think it also make sense to have it really close to the main result at the bottom.

**Comment by jcommelin** [comment]
I would like to hear @jsm28 's opinion on these changes.

File: Archive/Imo/Imo2024Q1.lean (hunk 2 above)
Comment (madvorak) [reply Archive/Imo/Imo2024Q1.lean:34]: I thought it might be better to readers to first see what we are proving and then start building lemmas towards it. If you want to keep it at the end, ok, but don't you want to inline it into the theorem?

File: Archive/Imo/Imo2024Q1.lean (hunk 1 above)
Comment (madvorak) [reply Archive/Imo/Imo2024Q1.lean:87]: Only here, or everywhere?

**Review by jsm28 — COMMENTED** [review]
I don't have any comments on these changes.

File: Archive/Imo/Imo2024Q1.lean (hunk 1 above)
Comment (joneugster) [reply Archive/Imo/Imo2024Q1.lean:87]: Is there generally any preference in imo files to use tactic- or term-mode?

Maybe

``` ... := by
  gcongr
  norm_cast
  apply ...
```

in that case?

File: Archive/Imo/Imo2024Q1.lean (hunk 2 above)
Comment (madvorak) [reply Archive/Imo/Imo2024Q1.lean:34]: If you don't want it on the top, it would better be inlined, right?

File: Archive/Imo/Imo2024Q1.lean (hunk 1 above)
Comment (madvorak) [reply Archive/Imo/Imo2024Q1.lean:87]: Undo this change, or all changes to terms in `calc` ?

File: Archive/Imo/Imo2024Q1.lean (hunk 2 above)
Comment (jcommelin) [reply Archive/Imo/Imo2024Q1.lean:34]: Maybe this is a nice use case for `recall`. So that you can recall both the `Condition` and `solutionSet` just before the final result.

File: Archive/Imo/Imo2024Q1.lean (hunk 1 above)
Comment (jcommelin) [reply Archive/Imo/Imo2024Q1.lean:87]: I would prefer to revert all of them. `gcongr` is a very natural atomic step in my opinion. I think we should showcase it.
But my opinion isn't very strong.

Comment (madvorak) [reply Archive/Imo/Imo2024Q1.lean:87]: All right, I will revert them all.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by jcommelin** [comment]
Can you please merge master? Maybe that will make CI happy.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
